US06583155B2
1-(1-{3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-1H-benzotriazole
To a stirred solution of 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde (0.084 g, 0.21 mmol) in CH2Cl2 (0.5 mL) were added 1-piperidin4-yl-1H-benzotriazole hydrochloride (Maybridge Chemicals, 0.050 g, 0.21 mmol), Et3N (0.1 mL) and glacial AcOH (12 L, 0.21 mmol) in that order and stirred for 20 min. NaBH(OAc)3 (0.058 g, 0.27 mmol) was added and stirred under nitrogen overnight. Saturated NaHCO3 (1 mL) was added and stirred for 30 min. The layers were separated and the aqueous layer was extracted with CH2Cl2 (3 mL). The combined organic extracts were washed with brine (3 mL), dried over Na2SO4, and removed under reduced pressure. MPLC of the crude afforded the desired compound as a white solid (0.098 g, 80 %). TLC (silica, 12% MeOH/CH2Cl2): Rf=0.44. MS (electrospray): exact mass calculated for C28H32F3N7O2S, 587.23; m/z found 588.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.00 (d, J=8.4 Hz, 1H), 7.66 (d, J=8.2 Hz, 2H), 7.59 (d, J=8.2 Hz, 2H), 7.50 (d, J=8.4 Hz, 1H), 7.41 (dt, J=0.9, 7.6 Hz, 1H), 7.30 (dt, J=0.9, 7.6 Hz, 1H), 4.59 (brt, J=11.2 Hz, 1H), 4.50 (s, 2H), 4.10 (t, J=6.7 Hz, 2H), 3.63 (t, J=5.8 Hz, 2H), 3.00 (br d, J=12.0 Hz, 2H), 2.89 (t, J5.8 Hz, 2H), 2.86 (s, 3H), 2.38-2.27 (m, 4H), 2.17-1.99 (m, 6H).

reactant | 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde | 0.21 mmol, 0.084 g | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC=O | C17H18F3N3O3S
reactant | 1-piperidin4-yl-1H-benzotriazole hydrochloride | 0.21 mmol, 0.050 g | Cl.N1CCC(CC1)N1N=NC2=C1C=CC=C2
reactant | AcOH | 0.21 mmol, 12 L | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.27 mmol, 0.058 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
product | 1-(1-{3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-1H-benzotriazole | 0.098 g, 80 % | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCC(CC2)N2N=NC1=C2C=CC=C1 | C28H32F3N7O2S
